US06262103B1
Step 1: 1-Cyano-3-cyclohexyl-6,6-dimethyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
In the same way as described in Example 6, Step 1, using cyclohexylmagnesium chloride and 1-cyano-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one, the title compound (0.63 g, 28%) was isolated as a cream solid. mp 129-132° C. 1HNMR (360 MHz, CDCl3) δ 1.07 (6H, s), 1.20-1.55 (5H, m), 1.75-1.85 (3H, m), 2.01-2.06 (2H, m), 2.42 (2H, s), 2.84 (2H, s), 3.85-3.94 (1H, M).

reactant | cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
reactant | 1-cyano-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)SC | C12H13NOS2
product | 1-Cyano-3-cyclohexyl-6,6-dimethyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.63 g, 28% | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)C2CCCCC2 | C17H21NOS
